US07153851B2
(3R,4R)-(4-Hydroxypyrrolidin-3-yl)methanol (1.18 g) was dissolved in ethanol (25 mL) and triethylamine (1.40 mL) was added to the solution. While this mixture was cooled on a sodium chloride/ice bath, benzyl bromide (1.10 mL) was added dropwise. The mixture was then stirred at room temperature for 1 hour and was concentrated under reduced pressure. The resulting residue was purified on a silica gel column (eluant=ethyl acetate: methanol=20:1) to give 1.02 g of (3R,4R)-(1-benzyl-4-hydroxypyrrolidin-3-yl)methanol as a milky white syrup-like product.

reactant | (3R,4R)-(4-Hydroxypyrrolidin-3-yl)methanol | 1.18 g | O[C@@H]1[C@H](CNC1)CO | C5H11NO2
reactant | triethylamine | 1.40 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl bromide | 1.10 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | (3R,4R)-(1-benzyl-4-hydroxypyrrolidin-3-yl)methanol | 1.02 g | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)O)CO | C12H17NO2
